* C:\Users\MomoI\Documents\LTspice\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PWL(0 0V 100m 15V)
R1 N001 N004 9k
R2 N004 0 470R
R3 N001 N002 4.7k
R4 N001 N003 1k
Q1 N002 N004 0 0 BC847C
Q2 N003 N002 0 0 BC847C
.model NPN NPN
.model PNP PNP
.lib C:\Users\MomoI\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100m
.backanno
.end
