* C:\Users\MomoI\Documents\LTspice\Draft4.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PWL(0 0V 100m 15V)
D1 0 N003 BZX84C12L
R1 N001 N003 2.2K
R2 N004 N003 1K
Q1 N002 N005 N001 0 BC557C
Q2 N005 N004 N001 0 BC557C
R3 N005 0 4.7K
R4 N002 0 10K
.model D D
.lib C:\Users\MomoI\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\MomoI\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100m
.backanno
.end
